US08431607B2
The mixture of tert-butyl (R)-1-[3-(trifluoromethyl)phenyl]-2-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)ethylcarbamate (520 mg, 1.21 mmol) and toluene (15 mL) is stirred at 110° C. for 3 h. Concentration to give (5R)-1-(tert-butoxycarbonyl)-5-[3-(trifluoromethyl)phenyl]-2-oxopyrrolidine-3-carboxylic acid as a colorless oil. This product is used for the next step without further purification. HPLC-MS calculated for C12H10F3NO3 (M-Boc+H+) 274.06, found 274.10.

reactant | tert-butyl (R)-1-[3-(trifluoromethyl)phenyl]-2-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)ethylcarbamate | 1.21 mmol, 520 mg | FC(C=1C=C(C=CC1)[C@@H](CC1C(OC(OC1=O)(C)C)=O)NC(OC(C)(C)C)=O)(F)F | C20H24F3NO6
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (5R)-1-(tert-butoxycarbonyl)-5-[3-(trifluoromethyl)phenyl]-2-oxopyrrolidine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1C(C(C[C@@H]1C1=CC(=CC=C1)C(F)(F)F)C(=O)O)=O | C17H18F3NO5
